US03990880
Preparation of 3-(4-chloro-2-fluorophenylimino)-4,5,6,7-tetrahydro-1-(3H)-isobenzofuranone
A solution of 0.4 parts of N,N-dicyclohexylcarbodiimide in 5 parts of dioxane was added at once to a solution of 0.6 parts of 2-(4-chloro-2-fluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylic acid in 5 parts of dioxane to form a slurry. After stirring the slurry for 1 hour, the resulting solid 1,3-dicyclohexylurea was filtered. The filtrate was evaporated under reduced pressure of 300 mm. Hg at 25° C to a yellow, semisolid residue from which 0.27 parts of 3-(4-chloro-2-fluorophenylimino)-4,5,6,7-tetrahydro-1-(3H)-isobenzofuranone melting at 81°-84° C was isolated after fractionation by high pressure liquid chromatography.

reactant | 2-(4-chloro-2-fluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylic acid | ClC1=CC(=C(C=C1)NC(=O)C1=C(CCCC1)C(=O)O)F | C14H13ClFNO3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-chloro-2-fluorophenylimino)-4,5,6,7-tetrahydro-1-(3H)-isobenzofuranone | ClC1=CC(=C(C=C1)N=C1OC(C=2CCCCC12)=O)F | C14H11ClFNO2
